US06727264B1
4-PROPOXY-1-NAPHTHALDEHYDE:
Prepared according to the Procedure for 2-(isopentyloxy)-1-naphthaldehyde using 4-hydroxy-1-naphthaldehyde and 1-bromopropane.

reactant | 2-(isopentyloxy)-1-naphthaldehyde | C(CC(C)C)OC1=C(C2=CC=CC=C2C=C1)C=O | C16H18O2
reactant | 4-hydroxy-1-naphthaldehyde | OC1=CC=C(C2=CC=CC=C12)C=O | C11H8O2
reactant | 1-bromopropane | BrCCC | C3H7Br
product | 4-PROPOXY-1-NAPHTHALDEHYDE | C(CC)OC1=CC=C(C2=CC=CC=C12)C=O | C14H14O2
